US04962103
(2R,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-(2,2-dimethoxycarbonylethyl)-4-t-butyldimethylsilyloxypyrrolidine (1.04 g) was dissolved in 6 ml of methanol, 3 ml of 4N sodium hydroxide solution was added thereto, and the resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was acidified with 6 ml of 6N hydrochloric acid, and 5 ml of tetrahydrofuran was added thereto. The resulting mixture was stirred at room temperature for 2 days, diluted with water, adjusted to alkaline with a saturated sodium bicarbonate solution and extracted with ether. The aqueous layer was acidified (pH 1) with dilute hydrochloric acid, extracted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and distilled to obtain (2R,4R)-1-(p-nitrobenzyloxycarbonyl)-2-(2-carboxyethyl)-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-(2,2-dimethoxycarbonylethyl)-4-t-butyldimethylsilyloxypyrrolidine | 1.04 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O[Si](C)(C)C(C)(C)C)CC(C(=O)OC)C(=O)OC)C=C1 | C24H36N2O9Si
reactant | sodium hydroxide | 4N, 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N, 6 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 6 ml | CO | CH4O
solvent | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2R,4R)-1-(p-nitrobenzyloxycarbonyl)-2-(2-carboxyethyl)-4-hydroxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CCC(=O)O)C=C1 | C15H18N2O7
